US08461339B2
A. 2,2-Diethoxy-N-(4-methoxybenzyl)acetimidamide
A solution of sodium methoxide (23%, 4.1 mL, 16 mmol) in MeOH was added to a solution of diethoxyacetonitrile (22 g, 86 mmol) in MeOH (400 mL) with stirring. The solution was stirred at room temperature overnight. The solvent was distilled off under reduced pressure. The residue was dissolved in diethyl ethyl (200 mL) and washed with washed with brine (200 mL), dried over anhydrous Na2SO4, filtered and concentrated to dryness. The crude material was dissolved in MeOH (100 mL), and p-methoxybenzylamine (11 g, 80 mmol) was added. Then this solution was heated under reflux overnight. After cooled to room temperature, the solvent was distilled off under reduced pressur to give the crude title compound (23 g).

reactant | sodium methoxide | 16 mmol, 4.1 mL | C[O-].[Na+]
reactant | diethoxyacetonitrile | 86 mmol, 22 g | C(C)OC(C#N)OCC | C6H11NO2
reactant | p-methoxybenzylamine | 80 mmol, 11 g | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | MeOH | CO | CH4O
solvent | MeOH | 400 mL | CO | CH4O
product | 2,2-Diethoxy-N-(4-methoxybenzyl)acetimidamide | 23 g | C(C)OC(C(NCC1=CC=C(C=C1)OC)=N)OCC | C14H22N2O3
